US04680297
naphthyridin-4(2H)-one
A solution of 4-hydroxy-3-(2-hydroxyethyl)1-phenyl-1,8-naphthyridin-2-(1H)-one (10 g.) in 30% (v/v) sulfuric acid (200 ml.) was heated to reflux, in an atmosphere of nitrogen, and was held at reflux until no further reaction occured (ca. 5-8 hrs.). After cooling, the solution was added slowly and carefully to an icecooled solution of sodium hydroxide (50% solution; 200 ml.). The mixture was allowed to stand overnight and was then filtered. The product was washed with water, dried in air and recrystallized from dimethylformamide/water, with charcoal treatment, to yield the product, m.p. 276°-277.5° C.

reactant | 4-hydroxy-3-(2-hydroxyethyl)1-phenyl-1,8-naphthyridin-2-(1H)-one | 10 g | OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)CCO | C16H14N2O3
reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
solvent | sulfuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | naphthyridin-4(2H)-one | N1CCC(C2=CC=CN=C12)=O | C8H8N2O
